US07851473B2
(1) Ethyl 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperidine-4-carboxylate
A mixed solution of ethyl isonipecotate (0.782 ml, 5.08 mmol), 5-chloro-3-phenyl-1,2,4-thiadiazole (1.00 g, 5.08 mmol) and triethylamine (0.708 ml, 5.08 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 30 minutes. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and ethyl acetate to yield 1.22 g (75.8%) of the desired product.

reactant | ethyl isonipecotate | 5.08 mmol, 0.782 ml | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 5-chloro-3-phenyl-1,2,4-thiadiazole | 5.08 mmol, 1.00 g | ClC1=NC(=NS1)C1=CC=CC=C1 | C8H5ClN2S
reactant | triethylamine | 5.08 mmol, 0.708 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperidine-4-carboxylate | 1.22 g, 75.8% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCC(CC1)C(=O)OCC | C16H19N3O2S
